US07115609B2
1-[N-(5-Chloroindole-2-carbonyl)-D-glutamyl]-4-(1-methylpiperidin-4-yl)piperidine Hydrochloride
Prepared from 1-[(γ-methyl)-D-glutamyl]-4-(1-methylpiperidin-4-yl)piperidine dihydrochloride hydrochloride and 5-chloroindole-2-carboxylic acid using methods substantially equivalent to General Coupling Method 1. Ester deprotection with 2 eq LiOH and final purification and HCl salt formation via prep HPLC.

reactant | 1-[(γ-methyl)-D-glutamyl]-4-(1-methylpiperidin-4-yl)piperidine dihydrochloride hydrochloride | Cl.Cl.Cl.CC(C[C@@H](N)C(=O)N1CCC(CC1)C1CCN(CC1)C)C(O)=O
reactant | 5-chloroindole-2-carboxylic acid | ClC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6ClNO2
reactant | LiOH | 2 eq | [Li+].[OH-]
reactant | HCl | Cl | ClH
product | 1-[N-(5-Chloroindole-2-carbonyl)-D-glutamyl]-4-(1-methylpiperidin-4-yl)piperidine Hydrochloride | Cl.ClC=1C=C2C=C(NC2=CC1)C(=O)N[C@H](CCC(O)=O)C(=O)N1CCC(CC1)C1CCN(CC1)C | InChI=1S/C25H33ClN4O4.ClH/c1-29-10-6-16(7-11-29)17-8-12-30(13-9-17)25(34)21(4-5-23(31)32)28-24(33)22-15-18-14-19(26)2-3-20(18)27-22;/h2-3,14-17,21,27H,4-13H2,1H3,(H,28,33)(H,31,32);1H/t21-;/m1./s1
